US06531502B1
Dimethylformamide (0.8 g) and 13 mL of dichloromethane was cooled to −9° C. Phosphorus oxychloride (1.7 g) was rapidly added via a dropping funnel. 3-(3-dimethylaminopropyl)-4,5,6,7-tetrahydro-1H-indole (2 g) was added in portions with vigorous stirring. The mixture was warmed to room temperature and then refluxed for 10 minutes. It was then cooled to 5° C., and diluted with 20 mL of water. The pH was adjusted to 10 with 10N sodium hydroxide. The layers were separated. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and evaporated to give 1.8 g (80%) of 3-(3-dimethylaminopropyl)-2-formyl-4,5,6,7-tetrahydro-1H-indole as a dark oil which solidified.

reactant | Dimethylformamide | 0.8 g | CN(C=O)C | C3H7NO
reactant | Phosphorus oxychloride | 1.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(3-dimethylaminopropyl)-4,5,6,7-tetrahydro-1H-indole | 2 g | CN(CCCC1=CNC=2CCCCC12)C | C13H22N2
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
product | 3-(3-dimethylaminopropyl)-2-formyl-4,5,6,7-tetrahydro-1H-indole | 1.8 g, 80% | CN(CCCC1=C(NC=2CCCCC12)C=O)C | C14H22N2O
